US08202871B2
(i) 3-Hydroxy-4,6-dichloro-1,3-dihydro-3-(4-trifluoromethylphenyl)indol-2-one
1.8 g of Grignard magnesium are placed in 19 ml of anhydrous ethyl ether in a round-bottomed flask equipped with a mechanical stirrer, and under a stream of nitrogen. A mixture of 8.9 ml of 4-bromotrifluoromethylbenzene in 46 ml of anhydrous ethyl ether is then added. The mixture is stirred for one hour, followed by addition of a solution of 5.7 g of 4,6-dichloro-1H-indole-2,3-dione in 100 ml of anhydrous THF. The mixture is stirred at room temperature for 4 hours 30 minutes. Water is added and the resulting mixture is extracted with ethyl acetate. The organic phase is separated out and dried over Na2SO4, filtered and evaporated under vacuum. The residue is taken up in ethyl acetate and washed with 1N sodium hydroxide solution. The organic phase is dried over Na2SO4, filtered and evaporated under vacuum. The solid is taken up in ethyl ether and filtered off. 4.7 g of expected product are obtained.

reactant | magnesium | [Mg] | Mg
reactant | 4-bromotrifluoromethylbenzene | 8.9 ml | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | 4,6-dichloro-1H-indole-2,3-dione | 5.7 g | ClC1=C2C(C(NC2=CC(=C1)Cl)=O)=O | C8H3Cl2NO2
reactant | Water | O | H2O
solvent | ethyl ether | 19 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 46 ml | C(C)OCC | C4H10O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-Hydroxy-4,6-dichloro-1,3-dihydro-3-(4-trifluoromethylphenyl)indol-2-one | 4.7 g | OC1(C(NC2=CC(=CC(=C12)Cl)Cl)=O)C1=CC=C(C=C1)C(F)(F)F | C15H8Cl2F3NO2
